US07544676B2
Preparation of 4-amino-3-(morpholinosulfonyl)-N-((1S,4R)-1,3,3-trimethylbicyclo-[2.2.1]heptan-2-yl)benzamide (2H)
3-(Morpholinosulfonyl)-4-(3,4,5-trimethoxybenzylamino)-N-((1S,4R)-1,3,3-trimethylbicyclo[2.2.1]heptan-2-yl)benzamide (2.5.AaBa, 0.36 g, 0.00060 mol) was dissolved in trifluoroacetic acid (7 mL, 0.09 mol). The reaction was stirred overnight at room temperature. The reaction was evaporated to dryness and the residue underwent aqueous workup. Prep-HPLC was performed to isolate the desired product, a white, crystalline solid 2H in 40% yield. MS analysis (m+1)=422.6.

reactant | 3-(Morpholinosulfonyl)-4-(3,4,5-trimethoxybenzylamino)-N-((1S,4R)-1,3,3-trimethylbicyclo[2.2.1]heptan-2-yl)benzamide | 0.00060 mol, 0.36 g | O1CCN(CC1)S(=O)(=O)C=1C=C(C(=O)NC2[C@]3(CC[C@@H](C2(C)C)C3)C)C=CC1NCC1=CC(=C(C(=C1)OC)OC)OC | C31H43N3O7S
reactant | trifluoroacetic acid | 0.09 mol, 7 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-amino-3-(morpholinosulfonyl)-N-((1S,4R)-1,3,3-trimethylbicyclo-[2.2.1]heptan-2-yl)benzamide | 40% yield | NC1=C(C=C(C(=O)NC2[C@]3(CC[C@@H](C2(C)C)C3)C)C=C1)S(=O)(=O)N1CCOCC1 | C21H31N3O4S
